US07465838B2
(1RS,5RS)-1,5-Dimethyl-3-phenyl-1,5-dihydro-benzo[e][1,3,2]dioxaphosphepine:
A solution of 1-[2-(1-Hydroxy-ethyl)-phenyl]-ethanol (1.0 g, 6.02 mmol) and bis-(dimethylamino)phenylphosphine (1.18 g, 6.02 mmol) in toluene (5 ml) was heated at reflux under a nitrogen atmosphere until all of the bis-(dimethylamino)phenylphosphine had been consumed (31P-NMR, 24 h). The solvent was then removed in vacuum to leave the product as a colourless oil in almost quantitative yield. 1H/13C-NMR (CDCl3, 300 MHz, HSQC/HMBC/NOE): δ/δ 1.59 (d, 3H, J=6.7 Hz)/21.77 (d, J=2.2 Hz) Ph anti-CH3; 1.90 (d, 3H, J=6.4 Hz)/23.51 (d, J=7.0 Hz) Ph syn-CH3; 5.41 (p, 1H, JP,H≈7 Hz)/70.72 (d, J=6.1 Hz) Ph syn-CHCH3); 5.63 (p, J=JP,H≈6.4 Hz)/74.72 (d, J=9.6 Hz) Ph anti-CHCH3); 7.19/126.65 ortho-CH); 7.30/126.65 ortho-CH); 7.21/127.35 meta-CH); 7.28/127.58 meta-CH); 7.41/128.33 (d, J=4.6 Hz) Ph meta-CH); 7.68/129.80 (d, J=20.1 Hz) Ph ortho-CH); 7.41/130.28 (d, J=0.6 Hz) Ph p-CH); 141.03 (d, J=0.9 Hz) ipso-C); 141.65 (d, J=32.6 Hz) Ph ipso-C); 142.54 (d, J=0.6 Hz) ipso-C). 31P-NMR: δ 154.2.

reactant | 1-[2-(1-Hydroxy-ethyl)-phenyl]-ethanol | 6.02 mmol, 1.0 g | OC(C)C1=C(C=CC=C1)C(C)O | C10H14O2
reactant | bis-(dimethylamino)phenylphosphine | 6.02 mmol, 1.18 g | CN(C)P(C1=CC=CC=C1)N(C)C | C10H17N2P
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (1RS,5RS)-1,5-Dimethyl-3-phenyl-1,5-dihydro-benzo[e][1,3,2]dioxaphosphepine | quantitative yield | CC1OP(OC(C2=C1C=CC=C2)C)C2=CC=CC=C2 | C16H17O2P
